US06465330B1
100 parts by weight of a 25% ethyl acetate solution of an acrylic copolymer having a weight average molecular weight of 300,000, prepared from 60 parts by weight of butyl acrylate, 10 parts by weight of methyl methacrylate and 30 parts by weight of 2-hydroxyethyl acrylate, was reacted with 7.0 parts by weight of methacryloyloxyethyl isocyanate to thereby obtain an energy radiation curable copolymer. 0.5 part by weight of polyisocyanate compound (Coronate L produced by Nippon Polyurethane Industry Co., Ltd.) and 1.0 part by weight of photopolymerization initiator (Irgacure 184 produced by Ciba Specialty Chemicals K.K.) were mixed with 100 parts by weight, in terms of solid contents, of the energy radiation curable copolymer, thereby obtaining an energy radiation curable pressure sensitive adhesive.

reactant | butyl acrylate | C(C=C)(=O)OCCCC | C7H12O2
reactant | methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
reactant | 2-hydroxyethyl acrylate | C(C=C)(=O)OCCO | C5H8O3
reactant | methacryloyloxyethyl isocyanate | C(C(=C)C)(=O)OCCN=C=O | C7H9NO3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Irgacure 184 | C1CCC(CC1)(C(=O)C2=CC=CC=C2)O | C13H16O2
